US04230850
4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-5,6,7,8-tetrahydrocoumarin.
Prepared as indicated in Example 14, Stage B, from 29 g. (0.12 mol) of 4-hydroxy-3-phenyl-5,6,7,8-tetrahydrocoumarin and 27.3 g. (0.156 mol) of 3-morpholino-2-methyl-2-chloropropane. 38.2 g. of an oil which cannot be crystallised are obtained. Yield 83.5% (theoretical yield 45.6 g.).

reactant | 4-hydroxy-3-phenyl-5,6,7,8-tetrahydrocoumarin | 0.12 mol | OC1=C(C(OC=2CCCCC12)=O)C1=CC=CC=C1 | C15H14O3
reactant | 3-morpholino-2-methyl-2-chloropropane | 0.156 mol | O1CCN(CC1)CC(C)(Cl)C | C8H16ClNO
product | 4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-5,6,7,8-tetrahydrocoumarin | Yield 83.5% | O1CCN(CC1)CC(COC1=C(C(OC=2CCCCC12)=O)C1=CC=CC=C1)C | C23H29NO4
